US08372864B2
Added to a solution of 185 mg of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride (2:1), 150 mg of 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid and 0.176 cm3 of triethylamine in 1.6 cm3 of anhydrous dimethylformamide are 64 mg of 1-hydroxy-7-azabenzotriazole then 90 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The solution is kept stirring for 24 h at a temperature close to 20° C. 20 cm3 of water and 50 cm3 of ethyl acetate are added to the reaction medium. After decantation, the organic phase is washed with 20 cm3 of a saturated aqueous solution of ammonium chloride, five lots of 20 cm3 of water, 20 cm3 of saturated aqueous solution of sodium chloride, then dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure (5 kPa). The residual solution (around 3 cm3) is filtered through a pellet of 15 g of 40-63 μm silica. The silica pellet is washed with 75 cm3 of ethyl acetate. The filtrate is concentrated to dryness under reduced pressure (5 kPa). 300 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are obtained in the form of a directly salified white powder.

reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride | 185 mg | Cl.N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F
reactant | 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid | 150 mg | CS(=O)(=O)NC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)O | C18H26N2O5S
reactant | 1-hydroxy-7-azabenzotriazole | 64 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 90 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 1.6 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 20 cm3 | O | H2O
solvent | triethylamine | 0.176 cm3 | C(C)N(CC)CC | C6H15N
product | 7-[(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | CS(=O)(=O)NC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)N | C18H27N3O4S
